US07250410B2
1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbd.
By replacing 5-(4-bromophenyl)-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIaf) in example IIba by 7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIaa), and MeI by ethyl iodide, and proceeding in the same manner, the abovenamed product is obtained. Yield: 62%. M: 86–88° C. 1H-NMR (CDCl3, 200 MHz): d 1.15 (t, 3H, CH3), 3.80 (s, 3H, OCH3), 4.01 (s, 3H, OCH3), 4.03 (AB system, ? d=0.61, JAB=13.9, 2H, —NCH2), 4.30 (AB system, ? d=1.00, JAB=9.98, 2H, CH2), 6.71 (s, 1H Ar), 6.88 (s, 1H Ar), 7.40–7.69 (m, 5H Ar).

reactant | 7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | COC=1C(=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1)OC | C17H16N2O3
reactant | MeI | CI | CH3I
reactant | ethyl iodide | C(C)I | C2H5I
product | 1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 62% | C(C)N1C(CN=C(C2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2)=O | C19H20N2O3
